US08071584B2
7-Bromo-4-fluoro-1H-indole
A solution of 1-bromo-4-fluoro-2-nitrobenzene (3.6 g, 16.4 mmol) in THF (100 mL) was added to a solution of 1 M vinylmagnesium bromide in THF (100 mL, 100 mmol) and DME (100 mL) at −78° C. (bath temp). The reaction was stirred at −78° C. for 4 h, and saturated aqueous NH4Cl was added. The layers were separated, and the organic layer was evaporated. The crude product was purified flash chromatography, giving 2 g (57%) of the title compound.

reactant | 1-bromo-4-fluoro-2-nitrobenzene | 16.4 mmol, 3.6 g | BrC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3BrFNO2
reactant | vinylmagnesium bromide | 1 M | C(=C)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | DME | 100 mL | COCCOC | C4H10O2
solvent | THF | 100 mmol, 100 mL | C1CCOC1 | C4H8O
product | 7-Bromo-4-fluoro-1H-indole | 2 g, 57% | BrC=1C=CC(=C2C=CNC12)F | C8H5BrFN
